US06900200B2
Step A. 4-Naphthalen-1-yl-benzoic acid methyl ester
Methyl 4-bromobenzoate (0.96 g, 4.46 mmol) was added to a mixture of 1-naphthaleneboronic acid (0.73 g, 4.25 mmol) and sodium carbonate (0.075 g, 7.08 mmol) in toluene (30 mL), ethanol (6 mL) and water (12 mL). The resultant solution was purged with nitrogen for 10 minutes before tetrakis(triphenylphosphine) palladium(0) (0.10 g, 0.09 mmol) was added. The reaction mixture was heated to reflux for 65 hours. The solution was cooled to ambient temperature, then filtered through a pad of Celite, which was subsequently rinsed with ethyl acetate. The combined filtrate was diluted to 100 mL with water/ethyl acetate (1:1, v/v). The aqueous layer was extracted with ethyl acetate, and the combined extracts were dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness to yield the title compound as a gold oil (1.09 g). This material was used without further purification in the next step.

reactant | Methyl 4-bromobenzoate | 4.46 mmol, 0.96 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | 1-naphthaleneboronic acid | 4.25 mmol, 0.73 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium carbonate | 7.08 mmol, 0.075 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | water | 12 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.09 mmol, 0.10 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Naphthalen-1-yl-benzoic acid methyl ester | 1.09 g | COC(C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12)=O | C18H14O2
